** sch_path: /foss/designs/ihpdig/invert/invert_tb.sch
**.subckt invert_tb
V3 net6 GND pulse 0 1.2 1n 0.1n 0.1n 5n 10n
V6 net1 GND 1.2
x1 vdd1v2 GND trigger trg_delayed trg_out1 trg_out2 bw[0] bw[1] bw[2] bw[3] bw[4] trg[0] trg[1] invert
R1 trigger net6 20 m=1
C1 trigger GND 100f m=1
R2 vdd1v2 net1 5 m=1
C3 vdd1v2 GND 10p m=1
V1 bw[0] GND 0
V2 bw[1] GND 1.2
V4 bw[2] GND 1.2
V5 bw[3] GND 0
V7 bw[4] GND 0
C2 trg_delayed GND 80f m=1
V8 trg[1] GND 1.2
V9 trg[0] GND 0
x2 vn net4 vp uwb_inductor
XM1 net2 net3 vtp GND sg13_lv_nmos w=15u l=0.15u ng=4 m=18
XM2 net3 net2 vtn GND sg13_lv_nmos w=15u l=0.15u ng=4 m=18
XM3 vtp GND GND GND sg13_lv_nmos w=15u l=0.15u ng=4 m=8
R3 vn net3 0 m=1
R4 vp net2 0 m=1
XM4 vtn GND GND GND sg13_lv_nmos w=15u l=0.15u ng=4 m=8
XC6 vtn vtp cap_cmim w=6.0e-6 l=6.0e-6 m=2
XC7 vtp vtn cap_cmim w=6.0e-6 l=6.0e-6 m=2
XC8 vn vp cap_cmim w=4.0e-6 l=4.0e-6 m=8
XC9 vp vn cap_cmim w=4.0e-6 l=4.0e-6 m=8
V11 net5 GND 0.9
R5 net4 net5 5 m=1
C4 net4 GND 10p m=1
R6 trg_out1 GND 3k m=1
R7 trg_out2 GND 3k m=1
**** begin user architecture code


.param temp=27
.control
.options savecurrents
save all
op
write invert_tb.raw
set appendwrite
tran 10p 5n
remzerovec
plot vp-vn
write invert_tb.raw
.endc



.include /foss/designs/ihpdig/invert/invert.spice

 .lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:  uwb_inductor.sym # of pins=3
** sym_path: /foss/designs/ihpdig/invert/uwb_inductor.sym
** sch_path: /foss/designs/ihpdig/invert/uwb_inductor.sch
.subckt uwb_inductor p1 pm p2
*.iopin p1
*.iopin pm
*.iopin p2
L3 pm net1 252.5p m=1
R1 net1 p1 1.603 m=1
L2 pm net2 252.5p m=1
R2 net2 p2 1.603 m=1
.ends

.GLOBAL GND
.end
