** sch_path: /foss/designs/ihpdig/uwb_dig/uwb_dig_tb.sch
**.subckt uwb_dig_tb
V6 vdd1v2 GND 1.2
V25 net1 GND 0 pulse(0 1.2 25n 1n 1n 50n 100n)

V26 net2 GND pwl 0 0 200n 0 +203n 0 +300n 0 +303n 1.2 400n 1.2 +403n 0 +500n 0 +503n 1.2 600n 1.2 +603n 1.2 +700n 1.2 +703n 1.2
+ 800n 1.2 +803n 1.2 +900n 1.2 +903n 0 1000n 0 +1003n 0 +1100n 0 +1103n 0 1200n 0 +1203n 1.2 +1300n 1.2 +1303n 0 1400n 0 +1403n 1.2
+ +1500n 1.2 +1503n 0 1600n 0 +1603n 0 +1700n 0 +1703n 1.2 1800n 1.2 +1803n 1.2 +1900n 1.2 +1903n 0 2000n 0
V1 net3 GND 0 pulse(0 1.2 2350n 1n 1n 100n 5000n)

C1 _sclk GND 10p m=1
R2 net2 _sdi 1k m=1
C2 _sdi GND 10p m=1
R1 net1 _sclk 1k m=1
R3 net3 trigger 1k m=1
C3 trigger GND 1p m=1
V2 net4 GND 0 pulse(0 1.2 2000n 1n 1n 100n 5000n)

R4 net4 _sload 1k m=1
C4 _sload GND 1p m=1
x1 vdd1v2 GND trgext1 trgext2 trigger _reg[35] _reg[36] _reg[37] _reg[38] _reg[39] _reg[26] _reg[27] _reg[28] _reg[29] _osctrg1[0]
+ _osctrg1[1] _osctrg1[2] _osctrg1[3] _osctrg2[0] _osctrg2[1] _osctrg2[2] _osctrg2[3] _reg[22] _reg[23] _reg[24] _reg[25] _patrg[0] _patrg[1]
+ _patrg[2] _patrg[3] _reg[33] _reg[34] _reg[30] _reg[31] _reg[32] uwb_dig
x2 vdd1v2 GND _sclk _sload _sdi _sdo _reg[0] _reg[1] _reg[2] _reg[3] _reg[4] _reg[5] _reg[6] _reg[7] _reg[8] _reg[9] _reg[10]
+ _reg[11] _reg[12] _reg[13] _reg[14] _reg[15] _reg[16] _reg[17] _reg[18] _reg[19] _reg[20] _reg[21] _reg[22] _reg[23] _reg[24] _reg[25]
+ _reg[26] _reg[27] _reg[28] _reg[29] _reg[30] _reg[31] _reg[32] _reg[33] _reg[34] _reg[35] _reg[36] _reg[37] _reg[38] _reg[39] uwb_spi
**** begin user architecture code

.param temp=27
.control
.OPTION RELTOL=1e-5
.OPTION METHOD=gear

op
save all
write uwb_dig_tb.raw
set appendwrite
tran 5n 2500n
remzerovec
write uwb_dig_tb.raw
.endc



.include /foss/designs/ihpdig/uwb_dig/uwb_spi.spice
.include /foss/designs/ihpdig/uwb_dig/uwb_dig.spice


 .lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

**** end user architecture code
**.ends
.GLOBAL GND
.end
